US07745472B2
1-[Bis-(3-bromo-4-hydroxyphenyl)methyl]-1H-[1,2,4]triazole (JRL01105, STX356)
To a stirred solution of 1-[Bis-(4-hydroxyphenyl)methyl]-1H-[1,2,4]triazole (STX267, 500 mg, 1.87 mmol) in CH2Cl2/MeOH 1:1 (40 ml) at −78° C. under nitrogen, a solution of benzyltrimethylammonium tribromide (1.49 g, 3.74 mmol) in CH2Cl2/MeOH 1:1 (10 ml) was added dropwise over 45 min. The orange mixture was kept at 0° C. for 7 h and then at room temperature overnight, at which time the solution had become colorless. The reaction mixture was evaporated and the residue that obtained was dissolved in a mixture water (100 mL) and EtOAc (100 mL). The aqueous layer was separated and was further extracted with EtOAc (2×50 mL). The organic extracts were combined and washed with brine, dried (Na2SO4) and evaporated. The crude product was fractionated by flash chromatography (hexane/ethyl acetate, 1:3) and the second fraction that collected gave JRL01105 (STX356) (485 mg) as white solid at about 97% purity; δH (400 MHz, DMSO-d6) 6.90 (1H, s, CH), 6.93 (2H, d, J 8.6 Hz), 7.03 (2H, dd, J 2.1 and 8.6 Hz), 7.30 (2H, d, J 2.1 Hz), 8.06 (1H, s), 8.56 (1H, s) and 10.45 (2H, br s, exchanged with D2O, 2×OH). The main impurity was the mono-brominated derivative of STX356. A small quantity of this fraction was further purified by semi-preparative HPLC (Waters PrepLC RP18, 25×10 mm, flow rate: 10 mL/min, mobile phase: MeOH/H2O, 60:40). The fraction with a retention time of 5.5 nm in was collected and upon evaporation gave a white solid; m.p. 198-205° C. (dec.). Found: C, 42.2; H, 2.65; N, 9.79; C15H11Br2N3O2 requires C, 42.38, H, 2.61, N, 9.89.

reactant | 1-[Bis-(4-hydroxyphenyl)methyl]-1H-[1,2,4]triazole | 1.87 mmol, 500 mg | OC1=CC=C(C=C1)C(N1N=CN=C1)C1=CC=C(C=C1)O | C15H13N3O2
reactant | benzyltrimethylammonium tribromide | 3.74 mmol, 1.49 g | [Br-].[Br-].[Br-].C(C1=CC=CC=C1)[N+](C)(C)C.C(C1=CC=CC=C1)[N+](C)(C)C.C(C1=CC=CC=C1)[N+](C)(C)C
solvent | CH2Cl2 MeOH | 40 ml | C(Cl)Cl.CO
solvent | CH2Cl2 MeOH | 10 ml | C(Cl)Cl.CO
solvent | water | 100 mL | O | H2O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 1-[Bis-(3-bromo-4-hydroxyphenyl)methyl]-1H-[1,2,4]triazole | BrC=1C=C(C=CC1O)C(N1N=CN=C1)C1=CC(=C(C=C1)O)Br | C15H11Br2N3O2
